US05212187
N-cyano-N'-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.63 g (2.0 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine and the equimolar amount of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=615 ([M+H]+, 14), 229 (100), 109 (96); IR (KBr): 2167 cm-1 (C≡N). For further analysis, a portion of the compound is converted into the tartaric acid salt in an ethanol/ether solvent mixture; m.p.: 65°-68° C. (ethanol/ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine | 2.0 mmol, 0.63 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCN)C)C=C1 | C18H25FN4
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
product | N-cyano-N'-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | C(#N)NC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NCCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)F | C35H47FN8O
